US07388019B2
Step A: Phenyl 5-ethylpyrido[3,4-b]pyrazine-6(5H)-carboxylate
A solution of phenyl chloroformate (0.200 mL, 250 mg, 1.59 mmol) in tetrahydrofuran (3.5 mL) was added over 20 min to a solution of 200 mg (1.53 mmol) of pyrido[3,4-b]pyrazine (prepared according to the procedure of F. F. Duarte and F. D. Popp, J. Heterocyclic Chem., 31: 819-823 (1994)) in tetrahydrofuran (7.5 mL) cooled in a −25° C. bath. After 10 min, ethylmagnesium bromide (1.0M in tetrahydrofuran, 1.54 mL, 1.54 mmol) was added over 10 min. The mixture was allowed to warm to 0° C. over 1 h. After an additional 30 min at 0° C., water (20 mL) was added and the mixture was extracted with ethyl acetate (50 mL). The organic layer was washed with saturated sodium bicarbonate solution (10 mL) followed by saturated aqueous brine (10 mL). The aqueous layers were extracted in succession with ethyl acetate (25 mL) and the organic layers were dried over sodium sulfate, decanted, and evaporated. Purification by flash chromatography (silica gel, 4-5% ethyl acetate in 1:1 hexanes/dichloromethane) gave the title compound as a colorless syrup. LC/MS 282 (M+1).

reactant | phenyl chloroformate | 1.59 mmol, 0.200 mL, 250 mg | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
reactant | pyrido[3,4-b]pyrazine | 1.53 mmol, 200 mg | N1=C2C(=NC=C1)C=NC=C2 | C7H5N3
reactant | ethylmagnesium bromide | 1.54 mmol, 1.0M, 1.54 mL | C(C)[Mg]Br
reactant | water | 20 mL | O | H2O
solvent | tetrahydrofuran | 3.5 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 7.5 mL | O1CCCC1 | C4H8O
product | Phenyl 5-ethylpyrido[3,4-b]pyrazine-6(5H)-carboxylate | C(C)C1N(C=CC=2C1=NC=CN2)C(=O)OC2=CC=CC=C2 | C16H15N3O2
